US08227396B2
Cleaning with Peroxydisulphate/Sodium Hydroxide
The concentration of sodium peroxydisulphate used in the experiments is 1500 ppm (6.3 mM), added as a solution of peroxydisulphate and sodium hydroxide (final concentration of 6.3 mM and 0.1 M, respectively).

reactant | sodium peroxydisulphate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
reactant | peroxydisulphate | S(=O)(=O)([O-])OOS(=O)(=O)[O-]
reactant | sodium hydroxide | [OH-].[Na+]
product | Peroxydisulphate Sodium Hydroxide | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[OH-].[Na+] | InChI=1S/Na.H2O8S2.H2O/c;1-9(2,3)7-8-10(4,5)6;/h;(H,1,2,3)(H,4,5,6);1H2/q+1;;/p-3
